US07037925B2
4-[1-Hydroxy-2,3-dihydro-1H-inden-4-yl)amino-6,7-dimethoxy-3-quinolinecarboxamide
6,7-Dimethoxy-4-[(1-oxo-2,3-dihydro-1H-inden-4-yl)amino]-3-quinolinecarboxamide (0.062 g, 16.4 mmol) was dissolved in a mixture of methanol (7 ml), tetrahydrofuran (4 ml) and water (3 ml). Sodium borohydride was added in portions (3×5 mg) and during 5 min. After 20 min the reaction mixture was acidified with acetic acid and then made alkaline with saturated aqueous sodium hydrogencarbonate and evaporated. The residue was partitioned between water and ethyl acetate. The organic phase was washed twice with water and evaporated. The residue was dissolved in methanol and water was added. The title compound, which slowly precipitated, was filtered off and dried to give 40 mg (64%). 1H NMR (DMSO-d6): δ 10.68 (1H, s); 8.82 (1H, s); 8.20 (1H, bs); 7.55 (1H, bs); 7.22 (1H, s); 7.07 (1H, t, J 7.5 Hz); 7.04 (1H, t, J 7.4 Hz); 6.75 (1H, s); 6.63 (1H, d, J 7.5 Hz); 5.20 (1H, d, J 5.7 Hz); 5.01 (1H, q, J 6.2 Hz); 3.85 (3H, s); 3.26 (s, moisture signal overlapping); 2.72–2.63 (1H, m); 2.50–2.36 (m, solvent signal overlapping); 2.30–2.20 (1H, m) and 1.76–1.65 (1H, m).

reactant | 6,7-Dimethoxy-4-[(1-oxo-2,3-dihydro-1H-inden-4-yl)amino]-3-quinolinecarboxamide | 16.4 mmol, 0.062 g | COC=1C=C2C(=C(C=NC2=CC1OC)C(=O)N)NC1=C2CCC(C2=CC=C1)=O | C21H19N3O4
reactant | Sodium borohydride | [BH4-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 7 ml | CO | CH4O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | water | 3 ml | O | H2O
product | 4-[1-Hydroxy-2,3-dihydro-1H-inden-4-yl)amino-6,7-dimethoxy-3-quinolinecarboxamide | OC1CCC2=C(C=CC=C12)NC1=C(C=NC2=CC(=C(C=C12)OC)OC)C(=O)N | C21H21N3O4
